$ Spice netlist generated by v2lvs
$ v2013.3_28.19    Tue Sep 3 16:44:15 PDT 2013

.SUBCKT c864 N11 N14 N18 N111 N114 N117 N121 N124 N127 N130 N134 N137 N140 N143 
+ N147 N150 N153 N156 N160 N163 N166 N169 N173 N176 N179 N182 N186 N189 N192 
+ N195 N199 N1102 N1105 N1108 N1112 N1115 N1223 N1329 N1370 N1421 N1430 N1431 
+ N1432 N21 N24 N28 N211 N214 N217 N221 N224 N227 N230 N234 N237 N240 N243 N247 
+ N250 N253 N256 N260 N263 N266 N269 N273 N276 N279 N282 N286 N289 N292 N295 
+ N299 N2102 N2105 N2108 N2112 N2115 N2223 N2329 N2370 N2421 N2430 N2431 N2432 
XAND8_1148 N1416 N1381 N1386 N1393 N1399 N1404 N1407 N1411 N1414 and 
XAND9_146 N1199 N1154 N1159 N1162 N1165 N1168 N1171 N1174 N1177 N1180 and 
XAND9_186 N1296 N1260 N1264 N1267 N1270 N1273 N1276 N1279 N1282 N1285 and 
XAND9_1126 N1357 N1348 N1349 N1350 N1351 N1352 N1353 N1354 N1355 N1356 and 
XAND8_2148 N2416 N2381 N2386 N2393 N2399 N2404 N2407 N2411 N2414 and 
XAND9_246 N2199 N2154 N2159 N2162 N2165 N2168 N2171 N2174 N2177 N2180 and 
XAND9_286 N2296 N2260 N2264 N2267 N2270 N2273 N2276 N2279 N2282 N2285 and 
XAND9_2126 N2357 N2348 N2349 N2350 N2351 N2352 N2353 N2354 N2355 N2356 and 
XNAND2_1103 N1334 N18 N1319 nand 
XNAND2_1105 N1336 N1319 N121 nand 
XNAND2_1107 N1338 N1319 N134 nand 
XNAND2_1109 N1340 N1319 N147 nand 
XNAND2_1111 N1342 N1319 N160 nand 
XNAND2_1154 N1422 N1386 N1417 nand 
XNAND2_119 N1154 N1118 N14 nand 
XNAND2_122 N1159 N1122 N117 nand 
XNAND2_123 N1162 N1126 N130 nand 
XNAND2_124 N1165 N1130 N143 nand 
XNAND2_125 N1168 N1134 N156 nand 
XNAND2_126 N1171 N1138 N169 nand 
XNAND2_127 N1174 N1142 N182 nand 
XNAND2_128 N1177 N1146 N195 nand 
XNAND2_129 N1180 N1150 N1108 nand 
XNAND2_156 N1242 N11 N1213 nand 
XNAND2_158 N1246 N1213 N111 nand 
XNAND2_160 N1250 N1213 N124 nand 
XNAND2_162 N1254 N1213 N137 nand 
XNAND2_163 N1255 N1213 N150 nand 
XNAND2_164 N1256 N1213 N163 nand 
XNAND2_165 N1257 N1213 N176 nand 
XNAND2_166 N1258 N1213 N189 nand 
XNAND2_167 N1259 N1213 N1102 nand 
XNAND2_168 N1260 N1224 N1157 nand 
XNAND2_169 N1263 N1224 N1158 nand 
XNAND2_170 N1264 N1227 N1183 nand 
XNAND2_171 N1267 N1230 N1185 nand 
XNAND2_172 N1270 N1233 N1187 nand 
XNAND2_173 N1273 N1236 N1189 nand 
XNAND2_174 N1276 N1239 N1191 nand 
XNAND2_175 N1279 N1243 N1193 nand 
XNAND2_176 N1282 N1247 N1195 nand 
XNAND2_177 N1285 N1251 N1197 nand 
XNAND2_178 N1288 N1227 N1184 nand 
XNAND2_179 N1289 N1230 N1186 nand 
XNAND2_180 N1290 N1233 N1188 nand 
XNAND2_181 N1291 N1236 N1190 nand 
XNAND2_182 N1292 N1239 N1192 nand 
XNAND2_183 N1293 N1243 N1194 nand 
XNAND2_184 N1294 N1247 N1196 nand 
XNAND2_185 N1295 N1251 N1198 nand 
XNAND2_1113 N1344 N1319 N173 nand 
XNAND2_1114 N1345 N1319 N186 nand 
XNAND2_1115 N1346 N1319 N199 nand 
XNAND2_1116 N1347 N1319 N1112 nand 
XNAND2_1117 N1348 N1330 N1300 nand 
XNAND2_1118 N1349 N1331 N1301 nand 
XNAND2_1119 N1350 N1332 N1302 nand 
XNAND2_1120 N1351 N1333 N1303 nand 
XNAND2_1121 N1352 N1335 N1304 nand 
XNAND2_1122 N1353 N1337 N1305 nand 
XNAND2_1123 N1354 N1339 N1306 nand 
XNAND2_1124 N1355 N1341 N1307 nand 
XNAND2_1125 N1356 N1343 N1308 nand 
XNAND2_1129 N1371 N114 N1360 nand 
XNAND2_1130 N1372 N1360 N127 nand 
XNAND2_1131 N1373 N1360 N140 nand 
XNAND2_1132 N1374 N1360 N153 nand 
XNAND2_1133 N1375 N1360 N166 nand 
XNAND2_1134 N1376 N1360 N179 nand 
XNAND2_1135 N1377 N1360 N192 nand 
XNAND2_1136 N1378 N1360 N1105 nand 
XNAND2_1137 N1379 N1360 N1115 nand 
XNAND3_1156 N1428 N1399 N1393 N1419 nand 
XNAND4_1138 N1380 N14 N1242 N1334 N1371 nand 
XNAND4_1139 N1381 N1246 N1336 N1372 N117 nand 
XNAND4_1140 N1386 N1250 N1338 N1373 N130 nand 
XNAND4_1141 N1393 N1254 N1340 N1374 N143 nand 
XNAND4_1142 N1399 N1255 N1342 N1375 N156 nand 
XNAND4_1143 N1404 N1256 N1344 N1376 N169 nand 
XNAND4_1144 N1407 N1257 N1345 N1377 N182 nand 
XNAND4_1145 N1411 N1258 N1346 N1378 N195 nand 
XNAND4_1146 N1414 N1259 N1347 N1379 N1108 nand 
XNAND4_1155 N1425 N1386 N1393 N1418 N1399 nand 
XNAND4_1157 N1429 N1386 N1393 N1407 N1420 nand 
XNAND4_1158 N1430 N1381 N1386 N1422 N1399 nand 
XNAND4_1159 N1431 N1381 N1386 N1425 N1428 nand 
XNAND4_1160 N1432 N1381 N1422 N1425 N1429 nand 
XNAND2_2103 N2334 N28 N2319 nand 
XNAND2_2105 N2336 N2319 N221 nand 
XNAND2_2107 N2338 N2319 N234 nand 
XNAND2_2109 N2340 N2319 N247 nand 
XNAND2_2111 N2342 N2319 N260 nand 
XNAND2_2154 N2422 N2386 N2417 nand 
XNAND2_219 N2154 N2118 N24 nand 
XNAND2_222 N2159 N2122 N217 nand 
XNAND2_223 N2162 N2126 N230 nand 
XNAND2_224 N2165 N2130 N243 nand 
XNAND2_225 N2168 N2134 N256 nand 
XNAND2_226 N2171 N2138 NN1421 nand 
XNAND2_227 N2174 N2142 N282 nand 
XNAND2_228 N2177 N2146 N295 nand 
XNAND2_229 N2180 N2150 N2108 nand 
XNAND2_256 N2242 N21 N2213 nand 
XNAND2_258 N2246 N2213 N211 nand 
XNAND2_260 N2250 N2213 N224 nand 
XNAND2_262 N2254 N2213 N237 nand 
XNAND2_263 N2255 N2213 N250 nand 
XNAND2_264 N2256 N2213 N263 nand 
XNAND2_265 N2257 N2213 N276 nand 
XNAND2_266 N2258 N2213 N289 nand 
XNAND2_267 N2259 N2213 N2102 nand 
XNAND2_268 N2260 N2224 N2157 nand 
XNAND2_269 N2263 N2224 N2158 nand 
XNAND2_270 N2264 N2227 N2183 nand 
XNAND2_271 N2267 N2230 N2185 nand 
XNAND2_272 N2270 N2233 N2187 nand 
XNAND2_273 N2273 N2236 N2189 nand 
XNAND2_274 N2276 N2239 N2191 nand 
XNAND2_275 N2279 N2243 N2193 nand 
XNAND2_276 N2282 N2247 N2195 nand 
XNAND2_277 N2285 N2251 N2197 nand 
XNAND2_278 N2288 N2227 N2184 nand 
XNAND2_279 N2289 N2230 N2186 nand 
XNAND2_280 N2290 N2233 N2188 nand 
XNAND2_281 N2291 N2236 N2190 nand 
XNAND2_282 N2292 N2239 N2192 nand 
XNAND2_283 N2293 N2243 N2194 nand 
XNAND2_284 N2294 N2247 N2196 nand 
XNAND2_285 N2295 N2251 N2198 nand 
XNAND2_2113 N2344 N2319 N273 nand 
XNAND2_2114 N2345 N2319 N286 nand 
XNAND2_2115 N2346 N2319 N299 nand 
XNAND2_2116 N2347 N2319 N2112 nand 
XNAND2_2117 N2348 N2330 N2300 nand 
XNAND2_2118 N2349 N2331 N2301 nand 
XNAND2_2119 N2350 N2332 N2302 nand 
XNAND2_2120 N2351 N2333 N2303 nand 
XNAND2_2121 N2352 N2335 N2304 nand 
XNAND2_2122 N2353 N2337 N2305 nand 
XNAND2_2123 N2354 N2339 N2306 nand 
XNAND2_2124 N2355 N2341 N2307 nand 
XNAND2_2125 N2356 N2343 N2308 nand 
XNAND2_2129 N2371 N214 N2360 nand 
XNAND2_2130 N2372 N2360 N227 nand 
XNAND2_2131 N2373 N2360 N240 nand 
XNAND2_2132 N2374 N2360 N253 nand 
XNAND2_2133 N2375 N2360 N266 nand 
XNAND2_2134 N2376 N2360 N279 nand 
XNAND2_2135 N2377 N2360 N292 nand 
XNAND2_2136 N2378 N2360 N2105 nand 
XNAND2_2137 N2379 N2360 N2115 nand 
XNAND3_2156 N2428 N2399 N2393 N2419 nand 
XNAND4_2138 N2380 N24 N2242 N2334 N2371 nand 
XNAND4_2139 N2381 N2246 N2336 N2372 N217 nand 
XNAND4_2140 N2386 N2250 N2338 N2373 N230 nand 
XNAND4_2141 N2393 N2254 N2340 N2374 N243 nand 
XNAND4_2142 N2399 N2255 N2342 N2375 N256 nand 
XNAND4_2143 N2404 N2256 N2344 N2376 N1421 nand 
XNAND4_2144 N2407 N2257 N2345 N2377 N282 nand 
XNAND4_2145 N2411 N2258 N2346 N2378 N295 nand 
XNAND4_2146 N2414 N2259 N2347 N2379 N2108 nand 
XNAND4_2155 N2425 N2386 N2393 N2418 N2399 nand 
XNAND4_2157 N2429 N2386 N2393 N2407 N2420 nand 
XNAND4_2158 N2430 N2381 N2386 N2422 N2399 nand 
XNAND4_2159 N2431 N2381 N2386 N2425 N2428 nand 
XNAND4_2160 N2432 N2381 N2422 N2425 N2429 nand 
XNOR2_120 N1157 N18 N1119 nor 
XNOR2_121 N1158 N114 N1119 nor 
XNOR2_130 N1183 N121 N1123 nor 
XNOR2_131 N1184 N127 N1123 nor 
XNOR2_132 N1185 N134 N1127 nor 
XNOR2_133 N1186 N140 N1127 nor 
XNOR2_134 N1187 N147 N1131 nor 
XNOR2_135 N1188 N153 N1131 nor 
XNOR2_136 N1189 N160 N1135 nor 
XNOR2_137 N1190 N166 N1135 nor 
XNOR2_138 N1191 N173 N1139 nor 
XNOR2_139 N1192 N179 N1139 nor 
XNOR2_140 N1193 N186 N1143 nor 
XNOR2_141 N1194 N192 N1143 nor 
XNOR2_142 N1195 N199 N1147 nor 
XNOR2_143 N1196 N1105 N1147 nor 
XNOR2_144 N1197 N1112 N1151 nor 
XNOR2_145 N1198 N1115 N1151 nor 
XNOR2_1153 N1421 N1415 N1416 nor 
XNOR2_220 N2157 N28 N2119 nor 
XNOR2_221 N2158 N214 N2119 nor 
XNOR2_230 N2183 N221 N2123 nor 
XNOR2_231 N2184 N227 N2123 nor 
XNOR2_232 N2185 N234 N2127 nor 
XNOR2_233 N2186 N240 N2127 nor 
XNOR2_234 N2187 N247 N2131 nor 
XNOR2_235 N2188 N253 N2131 nor 
XNOR2_236 N2189 N260 N2135 nor 
XNOR2_237 N2190 N266 N2135 nor 
XNOR2_238 N2191 N273 N2139 nor 
XNOR2_239 N2192 N279 N2139 nor 
XNOR2_240 N2193 N286 N2143 nor 
XNOR2_241 N2194 N292 N2143 nor 
XNOR2_242 N2195 N299 N2147 nor 
XNOR2_243 N2196 N2105 N2147 nor 
XNOR2_244 N2197 N2112 N2151 nor 
XNOR2_245 N2198 N2115 N2151 nor 
XNOR2_2153 N2421 N2415 N2416 nor 
XXOR2_150 N1224 N1203 N1154 xor 
XXOR2_151 N1227 N1203 N1159 xor 
XXOR2_152 N1230 N1203 N1162 xor 
XXOR2_153 N1233 N1203 N1165 xor 
XXOR2_154 N1236 N1203 N1168 xor 
XXOR2_155 N1239 N1203 N1171 xor 
XXOR2_157 N1243 N1203 N1174 xor 
XXOR2_159 N1247 N1203 N1177 xor 
XXOR2_161 N1251 N1203 N1180 xor 
XXOR2_199 N1330 N1309 N1260 xor 
XXOR2_1100 N1331 N1309 N1264 xor 
XXOR2_1101 N1332 N1309 N1267 xor 
XXOR2_1102 N1333 N1309 N1270 xor 
XXOR2_1104 N1335 N1309 N1273 xor 
XXOR2_1106 N1337 N1309 N1276 xor 
XXOR2_1108 N1339 N1309 N1279 xor 
XXOR2_1110 N1341 N1309 N1282 xor 
XXOR2_1112 N1343 N1309 N1285 xor 
XXOR2_250 N2224 N2203 N2154 xor 
XXOR2_251 N2227 N2203 N2159 xor 
XXOR2_252 N2230 N2203 N2162 xor 
XXOR2_253 N2233 N2203 N2165 xor 
XXOR2_254 N2236 N2203 N2168 xor 
XXOR2_255 N2239 N2203 N2171 xor 
XXOR2_257 N2243 N2203 N2174 xor 
XXOR2_259 N2247 N2203 N2177 xor 
XXOR2_261 N2251 N2203 N2180 xor 
XXOR2_299 N2330 N2309 N2260 xor 
XXOR2_2100 N2331 N2309 N2264 xor 
XXOR2_2101 N2332 N2309 N2267 xor 
XXOR2_2102 N2333 N2309 N2270 xor 
XXOR2_2104 N2335 N2309 N2273 xor 
XXOR2_2106 N2337 N2309 N2276 xor 
XXOR2_2108 N2339 N2309 N2279 xor 
XXOR2_2110 N2341 N2309 N2282 xor 
XXOR2_2112 N2343 N2309 N2285 xor 
XNOT1_11 N1118 N11 not 
XNOT1_12 N1119 N14 not 
XNOT1_13 N1122 N111 not 
XNOT1_14 N1123 N117 not 
XNOT1_15 N1126 N124 not 
XNOT1_16 N1127 N130 not 
XNOT1_17 N1130 N137 not 
XNOT1_18 N1131 N143 not 
XNOT1_19 N1134 N150 not 
XNOT1_110 N1135 N156 not 
XNOT1_111 N1138 N163 not 
XNOT1_112 N1139 N169 not 
XNOT1_113 N1142 N176 not 
XNOT1_114 N1143 N182 not 
XNOT1_115 N1146 N189 not 
XNOT1_116 N1147 N195 not 
XNOT1_117 N1150 N1102 not 
XNOT1_118 N1151 N1108 not 
XNOT1_147 N1203 N1199 not 
XNOT1_148 N1213 N1199 not 
XNOT1_149 N1223 N1199 not 
XNOT1_187 N1300 N1263 not 
XNOT1_188 N1301 N1288 not 
XNOT1_189 N1302 N1289 not 
XNOT1_190 N1303 N1290 not 
XNOT1_191 N1304 N1291 not 
XNOT1_192 N1305 N1292 not 
XNOT1_193 N1306 N1293 not 
XNOT1_194 N1307 N1294 not 
XNOT1_195 N1308 N1295 not 
XNOT1_196 N1309 N1296 not 
XNOT1_197 N1319 N1296 not 
XNOT1_198 N1329 N1296 not 
XNOT1_1147 N1415 N1380 not 
XNOT1_1149 N1417 N1393 not 
XNOT1_1150 N1418 N1404 not 
XNOT1_1151 N1419 N1407 not 
XNOT1_1152 N1420 N1411 not 
XNOT1_1127 N1360 N1357 not 
XNOT1_1128 N1370 N1357 not 
XNOT1_21 N2118 N1223 not 
XNOT1_22 N2119 N24 not 
XNOT1_23 N2122 N211 not 
XNOT1_24 N2123 N217 not 
XNOT1_25 N2126 N224 not 
XNOT1_26 N2127 N230 not 
XNOT1_27 N2130 N237 not 
XNOT1_28 N2131 N243 not 
XNOT1_29 N2134 N250 not 
XNOT1_210 N2135 N256 not 
XNOT1_211 N2138 N263 not 
XNOT1_212 N2139 N1421 not 
XNOT1_213 N2142 N276 not 
XNOT1_214 N2143 N282 not 
XNOT1_215 N2146 N289 not 
XNOT1_216 N2147 N295 not 
XNOT1_217 N2150 N2102 not 
XNOT1_218 N2151 N2108 not 
XNOT1_247 N2203 N2199 not 
XNOT1_248 N2213 N2199 not 
XNOT1_249 N2223 N2199 not 
XNOT1_287 N2300 N2263 not 
XNOT1_288 N2301 N2288 not 
XNOT1_289 N2302 N2289 not 
XNOT1_290 N2303 N2290 not 
XNOT1_291 N2304 N2291 not 
XNOT1_292 N2305 N2292 not 
XNOT1_293 N2306 N2293 not 
XNOT1_294 N2307 N2294 not 
XNOT1_295 N2308 N2295 not 
XNOT1_296 N2309 N2296 not 
XNOT1_297 N2319 N2296 not 
XNOT1_298 N2329 N2296 not 
XNOT1_2147 N2415 N2380 not 
XNOT1_2149 N2417 N2393 not 
XNOT1_2150 N2418 N2404 not 
XNOT1_2151 N2419 N2407 not 
XNOT1_2152 N2420 N2411 not 
XNOT1_2127 N2360 N2357 not 
XNOT1_2128 N2370 N2357 not 
.ENDS
